US04218448
To a stirred mixture of 7.0 g (0.02 mole) of 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one and 70 ml of trifluoroacetic acid is added 4.2 g (0.042 mole) of potassium nitrate. The mixture is stirred for 16 hours at room temperature and then is refluxed for 30 minutes. The mixture is poured into 300 ml of water. The solid is filtered off, washed with water, and dried. Recrystallization from 250 ml of acetonitrile gives 3.3 g (42%) of 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-6-methyl-5-nitro-4H-pyrrolo[3,2,1-ij]quinolin-4-one, m.p. 289°-290° (dec).

reactant | 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 0.02 mole, 7.0 g | FC(C(C(F)(F)F)(O)C=1C=C2C(=CC(N3C2=C(C1)CC3)=O)C)(F)F | C15H11F6NO2
reactant | trifluoroacetic acid | 70 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium nitrate | 0.042 mole, 4.2 g | [N+](=O)([O-])[O-].[K+]
solvent | water | 300 ml | O | H2O
product | 1,2-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-6-methyl-5-nitro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 3.3 g, 42% | FC(C(C(F)(F)F)(O)C=1C=C2C(=C(C(N3C2=C(C1)CC3)=O)[N+](=O)[O-])C)(F)F | C15H10F6N2O4
